US08541429B2
Step 2. 2-methoxy-4,4-dimethylcyclohex-2-en-1-one
A solution of 5,5-dimethyl-7-oxabicyclo[4.1.0]heptan-2-one (19.4 g, 138.4 mmol) in methanol (95 mL) was added to a solution of 85% potassium hydroxide (9.1 g, 138.4 mmol) in methanol (285 mL) at room temperature. The mixture was kept at this temperature for 20 hours and was then heated to reflux for 30 minutes. After cooling, the solution was diluted with water (750 mL) and extracted with diethyl ether (350 mL×4). The organic extracts were collected, washed with brine, dried on Na2SO4 and evaporated to dryness. The crude material was taken up with hexane (380 mL), maintained under vigorous stirring for 30 minutes and filtered to remove the solid material. The filtrate was evaporated under vacuum to obtain the pure title compound (9.8 g, 45.9% yield) as a pale yellow oil.

reactant | 5,5-dimethyl-7-oxabicyclo[4.1.0]heptan-2-one | 138.4 mmol, 19.4 g | CC1(CCC(C2OC12)=O)C | C8H12O2
reactant | potassium hydroxide | 138.4 mmol, 9.1 g | [OH-].[K+]
reactant | methanol | 95 mL | CO | CH4O
reactant | methanol | 285 mL | CO | CH4O
solvent | water | 750 mL | O | H2O
product | 2-methoxy-4,4-dimethylcyclohex-2-en-1-one | 9.8 g, 45.9% yield | COC=1C(CCC(C1)(C)C)=O | C9H14O2
